US04847381
6-Fluoro-3-hydroxy-2-[1,1'-biphenyl]-4-yl-4-quinolinecarboxylic acid
A suspension of 6.6 g of 5-fluoro-2,3-indolinedione in 48 ml of water was treated with a sufficient amount of a solution of 6.62 g of sodium hydroxide in 22 ml of water to provide solution. A warm solution of 10.17 g of acetoxyacetylbiphenyl in 80 ml of ethanol was added, followed by the balance of the alkali solution. The mixture was refluxed for 3 hours. During the last 1/2 hour 10 ml of ethanol was distilled off. A 103 ml portion of water was added, the mixture was stirred, cooled and filtered through diatomaceous earth. The filtrate was treated with 13.6 ml of concentrated hydrochloric acid and 4.39 ml of glacial acetic acid and stirred for 30 minutes. The resulting precipitate was collected, washed with water and ether and air dried. The resulting solid was stirred and heated in 400 ml of ethanol. The solid was collected, washed with water and dried giving 11.2 g of the desired product, mp 25220 -254° C.

reactant | 5-fluoro-2,3-indolinedione | 6.6 g | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | sodium hydroxide | 6.62 g | [OH-].[Na+]
reactant | acetoxyacetylbiphenyl | 10.17 g | C(C)(=O)OCC(=O)C1=C(C=CC=C1)C1=CC=CC=C1 | C16H14O3
reactant | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 48 ml | O | H2O
solvent | water | 22 ml | O | H2O
product | 6-Fluoro-3-hydroxy-2-[1,1'-biphenyl]-4-yl-4-quinolinecarboxylic acid | 11.2 g | FC=1C=C2C(=C(C(=NC2=CC1)C1=CC=C(C=C1)C1=CC=CC=C1)O)C(=O)O | C22H14FNO3
